US07875647B2
2-tert-butyl-5-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-(prop-1-ynyl)-1H-pyrazol-3-yl)-1,3,4-oxadiazole
To a solution of 2-tert-butyl-5-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-ethynyl-1H-pyrazol-3-yl)-1,3,4-oxadiazole (100 mg, 0.21 mmol) in tetrahydrofuran (15 ml) at 78° C., lithium bis(trimethylsilyl)amide (0.23 ml, 1.0 M solution in tetrahydrofuran, 0.23 mmol) was added slowly not to warm up the reaction solution. After stirring at 78° C. for 10 minutes, iodomethane (0.04 ml, 0.7 mmol) was added quickly. The resulting solution was stirred for 20 minutes, and then it was warmed up to room temperature slowly. After quenching with saturated ammonium solution, the organic layer was separated with ethyl acetate. The organic solution was evaporated in reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1 to hexane/ethyl acetate=5/1) to produce title compound (13 mg, 13% yield) as light yellow solid.

reactant | 2-tert-butyl-5-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-ethynyl-1H-pyrazol-3-yl)-1,3,4-oxadiazole | 0.21 mmol, 100 mg | C(C)(C)(C)C=1OC(=NN1)C1=NN(C(=C1C#C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C23H17Cl3N4O
reactant | lithium bis(trimethylsilyl)amide | 0.23 mmol, 1.0 M, 0.23 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | iodomethane | 0.7 mmol, 0.04 ml | IC | CH3I
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-tert-butyl-5-(5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-(prop-1-ynyl)-1H-pyrazol-3-yl)-1,3,4-oxadiazole | 13 mg, 13% yield | C(C)(C)(C)C=1OC(=NN1)C1=NN(C(=C1C#CC)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C24H19Cl3N4O
